US09216985B2
2-fluoro-6-nitro-N-(3-(2,2,3,3,3-pentafluoropropoxy)phenyl)benzamide
Under nitrogen, to 2-fluoro-6-nitrobenzamide (1.15 g, 6.23 mmol, 1.00 equiv) in dioxane (6.2 mL) at 23° C. was added palladium acetate (140 mg, 0.623 mmol, 0.100 equiv), Xantphos (541 mg, 0.935 mmol, 0.150 equiv), cesium carbonate (1.21 g, 8.72 mmol, 1.40 equiv), and 1-bromo-3-(2,2,3,3,3-pentafluoropropoxy)benzene (1.90 g, 6.23 mmol, 1.00 equiv). After stirring for 4 hr at 100° C., the reaction mixture was concentrated in vacuo and the residue was purified by column chromatography eluting with EtOAc/hexanes to afford 2.1 g of the title compound (83% yield).

reactant | 2-fluoro-6-nitrobenzamide | 6.23 mmol, 1.15 g, 1.00 equiv | FC1=C(C(=O)N)C(=CC=C1)[N+](=O)[O-] | C7H5FN2O3
reactant | Xantphos | 0.935 mmol, 541 mg, 0.150 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 8.72 mmol, 1.21 g, 1.40 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-3-(2,2,3,3,3-pentafluoropropoxy)benzene | 6.23 mmol, 1.90 g, 1.00 equiv | BrC1=CC(=CC=C1)OCC(C(F)(F)F)(F)F | C9H6BrF5O
solvent | dioxane | 6.2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.623 mmol, 140 mg, 0.100 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-fluoro-6-nitro-N-(3-(2,2,3,3,3-pentafluoropropoxy)phenyl)benzamide | 2.1 g, 83% yield | FC1=C(C(=O)NC2=CC(=CC=C2)OCC(C(F)(F)F)(F)F)C(=CC=C1)[N+](=O)[O-] | C16H10F6N2O4
